US05187236
Isoprene-Butadiene-Isoprene Triblock Polymer
Two hundred milliliters (ml) of purified dried cyclohexane (99.5% available from Phillips Petroleum Co.) were introduced under nitrogen atmosphere into a two quart glass bowled stirred pressure reactor. The reactor was equipped with an air driven stirrer, a pressure gauge, a thermometer well, a heat exchange coil, a top surface inlet valve, a dip tube feeder with valve, a syringe injection port containing a viton rubber gasket and a blow-out disk (200 psi). Three milliliters (ml) of a 0.01M solution of dipyridyl indicator in cyclohexane and 6.5 ml (70 millimoles-mm) of freshly distilled tetrahydrofuran were injected into the reactor, whose contents were then heated to 54° C. The solution was titrated by slow addition of 0.1 molar butyl lithium (BuLi) until a red color was observed indicating the deactivation of all impurities. Next, 3.0 ml (2 g., 30 mm) of purified isoprene and 20 ml of 0.1 m BuLi solution were injected into the reactor. Oligomerization of the isoprene to form the initial block was completed in approximately one hour. To the solution of living polyisoprenyl anions was added an additional one liter of pre-titrated cyclohexane. To form the second block 100 grams of purified butadiene were slowly pressurized into the reactor at a rate to maintain temperature below 60° C. After an hour, the reactor pressure had dropped to the initial value and the formation of the isoprene-butadiene block copolymer was complete. The diblock living anion was coupled to a triblock having twice the molecular weight of the diblock by the introduction of 11 ml of a 0.1M phenyl benzoate solution (in cyclohexane). The mixture, which contained a 10% stoichiometric excess of the coupling agent, was kept with stirring at 50° C. for an additional thirty minutes and then pressurized from the reactor. A portion of the unhydrogenated triblock polymer was isolated by flocculation in isopropanol containing an antioxidant Irganox 1076 to prevent the crosslinking of the highly unsaturated triblock. The solid polymer sample was filtered and dried in a vacuum oven for 18 hours. Infrared (FTIR) analysis showed the butadiene microstructure to have 50% 1,2- and 50% of 1,4-composition. Gel permeation chromotography of the sample, using differential refractive index and DAWN laser light-scattering dual detectors, determined the number average molecular weight (Mn) and weight average molecular weight (Mw) of the polymer to be 135,900 and 139,400, respectively, for a dispersity (Mw/Mn) of 1.08.

reactant | isoprene butadiene | C=CC(C)=C.C=CC=C
reactant | phenyl benzoate | 0.1M | C(C1=CC=CC=C1)(=O)OC1=CC=CC=C1 | C13H10O2
solvent | isopropanol | C(C)(C)O | C3H8O
product | Isoprene Butadiene Isoprene | C=CC(C)=C.C=CC=C.C=CC(C)=C | InChI=1S/2C5H8.C4H6/c2*1-4-5(2)3;1-3-4-2/h2*4H,1-2H2,3H3;3-4H,1-2H2
